US04031093
A solution of triethyloxonium fluoroborate (32.4 g., 0.171 mole) in methylene chloride (75 ml.) was added to a stirred solution of 2-n-butoxybenzamide [J. Pharm. Pharmacol., 4, 872 (1952)] (33.0 g., 0.171 mole) in methylene chloride (200 ml.) at 25°. The mixture was stirred at 25° for 20 hours. The solution was concentrated to about 1/15 of the original volume and then diluted with diethyl ether. The precipitated solid was recrystallized from methylene chloride-diethyl ether to give ethyl 2-n-butoxybenzimidate fluoroborate (28.7 g.), m.p. 82°-88°. To a stirred, cooled (ice-water) suspension of the fluoroborate (28.7 g.) in ethanol (75 ml.) was added 8% ethanolic ammonia (150 ml.). The mixture was stirred at 25° for 20 hours. The ethanol was removed and the residue partitioned between ether and 5N sodium hydroxide (100 ml.). The ether layer was washed with brine, dried over sodium sulfate, and then concentrated. A solution of the residual oil in ether was treated with hydrogen chloride to precipitate the title compound (16.8 g.), m.p. 150°-155°.

reactant | triethyloxonium fluoroborate | 0.171 mole, 32.4 g | F[B-](F)(F)F.C(C)[O+](CC)CC
reactant | 2-n-butoxybenzamide | 0.171 mole, 33.0 g | C(CCC)OC1=C(C(=O)N)C=CC=C1 | C11H15NO2
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2-n-butoxybenzimidate fluoroborate | 28.7 g | F[B-](F)(F)F.C(CCC)OC1=C(C(OCC)=N)C=CC=C1 | InChI=1S/C13H19NO2.BF4/c1-3-5-10-16-12-9-7-6-8-11(12)13(14)15-4-2;2-1(3,4)5/h6-9,14H,3-5,10H2,1-2H3;/q;-1
